US04701461
1-(3',4'-dimethoxyphenyl)-7-phenyl-2-nitro-5-heptanone
To a solution of 36 g (0.17 mole) of 2-(3,4-dimethoxyphenyl)-1-nitroethane in 300 mL of dry tetrahydrofuran was added 71 g (0.17 mole) of 40% Triton B. The solution was stirred at room temperature for 10 min. 55.3 g (0.19 mole) of 1-iodo-5-phenyl-3-pentanone in a minimum amount of dry tetrahydrofuran was added dropwise. The mixture was stirred at room temperature for 30 min, at 50° C. for 3 hrs., then allowed to stir at room temperature overnight. Solvent was removed in vacuo and the residue taken up in ether and extracted twice with water. The organic layer was dried over anh.MgSO4, and concentrated at reduced pressure to give 71.5 g of crude oil. This crude material was passed through HPLC to give 46.4 g of purified material.

reactant | 2-(3,4-dimethoxyphenyl)-1-nitroethane | 0.17 mole, 36 g | COC=1C=C(C=CC1OC)CC[N+](=O)[O-] | C10H13NO4
reactant | 1-iodo-5-phenyl-3-pentanone | 0.19 mole, 55.3 g | ICCC(CCC1=CC=CC=C1)=O | C11H13IO
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 1-(3',4'-dimethoxyphenyl)-7-phenyl-2-nitro-5-heptanone | 46.4 g | COC=1C=C(C=CC1OC)CC(CCC(CCC1=CC=CC=C1)=O)[N+](=O)[O-] | C21H25NO5
